US07799822B2
Prepared using general procedure 60: To a solution of aniline (1.0 mL, 11.1 mmol) in CH2Cl2 (25 mL) under nitrogen at RT was added a solution of trimethylaluminum in hexane (2.0 M, 5.5 mL, 11.0 mmol) over 5 min. After stirring at RT for 20 min, a solution of (S)-3-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)-dihydrofuran-2(3H)-one (2.32 g, 9.2 mmol) in CH2Cl2 (25 mL) was added over 10 min. Stirring was continued for 18 h at RT, then the reaction mixture was cooled to 0° C. and quenched by careful addition of aqueous 1 M HCl (25 mL). Phases were separated, and the aqueous phase was extracted with CH2Cl2 (2×50 mL). The combined organic extracts were dried over MgSO4 and concentrated. Purification via silica gel chromatography using 2-10% MeOH in CH2Cl2 gave (S)-2-(6-Chloro-3,4-dihydroquinolin-1(2H)-yl)-4-hydroxy-N-phenylbutanamide as a white solid (2.56 g, 81%). 1H NMR (400 MHz, DMSO-d6) δ 10.00 (s, 1H), 7.60 (dd, J=1.0, 8.5 Hz, 2H), 7.29 (dd, J=1.8, 14.1 Hz, 2H), 7.07-6.95 (m, 3H), 6.80 (d, J=9.0 Hz, 1H), 4.67 (t, J=4.9 Hz, 1H), 4.56 (t, J=7.2 Hz, 1H), 3.47 (dd, J=6.1, 11.2 Hz, 2H), 3.39-3.34 (m, 1H), 3.31-3.25 (m, 1H), 2.71-2.68 (m, 2H), 2.15-2.04 (m, 1H), 1.94-1.80 (m, 3H). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=345.3; tR=3.44 min.

reactant | aniline | 11.1 mmol, 1.0 mL | NC1=CC=CC=C1 | C6H7N
reactant | trimethylaluminum | C[Al](C)C
reactant | hexane | 11.0 mmol, 2.0 M, 5.5 mL | CCCCCC | C6H14
reactant | (S)-3-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)-dihydrofuran-2(3H)-one | 9.2 mmol, 2.32 g | ClC=1C=C2CCCN(C2=CC1)[C@@H]1C(OCC1)=O | C13H14ClNO2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(6-Chloro-3,4-dihydroquinolin-1(2H)-yl)-4-hydroxy-N-phenylbutanamide | 2.56 g, 81% | ClC=1C=C2CCCN(C2=CC1)[C@H](C(=O)NC1=CC=CC=C1)CCO | C19H21ClN2O2
